US04020091
To 1 mole of phenyl methane triphosphonate acid there were added 6 moles of 10% aqueous sodium hydroxide and the mixture was evaporated to dryness to produce hexasodium phenyl methane triphosphonate.

reactant | phenyl methane triphosphonate | 1 mole | P(=O)(O)OP(=O)(O)OP(=O)O.C1(=CC=CC=C1)C
reactant | sodium hydroxide | 6 moles | [OH-].[Na+]
product | hexasodium phenyl methane triphosphonate | P(=O)([O-])OP(=O)([O-])OP(=O)[O-].C1(=CC=CC=C1)C.[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].P(=O)([O-])OP(=O)([O-])OP(=O)[O-] | InChI=1S/C7H8.6Na.2H5O8P3/c1-7-5-3-2-4-6-7;;;;;;;2*1-9(2)7-11(5,6)8-10(3)4/h2-6H,1H3;;;;;;;2*9-10H,(H,1,2)(H,3,4)(H,5,6)/q;6*+1;;/p-6
